US05919777
(2R)-1,2-Dibenzyl-4-methanesulfonylpiperazine (2.2 g; 6.4 mmol) was dissolved in dry 1,2-dichloroethane (20 ml) under an atmosphere of nitrogen. The mixture was placed on an ice-bath and a solution of α-chloroethyl chloroformate (1.0 g; 7.04 mmol) in dry 1,2-dichloroethane (10 ml) was added keeping the temperature between 0 and 5° C. When addition is complete stirring is continued for 15 minutes on the ice-bath. The reaction mixture is heated slowly to 90° C. on an oil-bath and heated at reflux temperature for 1 h. The major part of the solvent was allowed to evaporate and the residue was allowed to cool on an ice-bath. Methanol (20 ml) was added and the mixture was heated at reflux temperature for 1 h. The mixture was allowed to cool to ambient temperature, diethyl ether (30 ml) was slowly added and the mixture was stirred for 30 minutes. The solid was isolated by filtration, washed with diethyl ether, and dried to give 0.78 g of (3R)-3-benzyl-1-methanesulfonylpiperazine hydrochloride. M.p. 204-208° C.

reactant | (2R)-1,2-Dibenzyl-4-methanesulfonylpiperazine | 6.4 mmol, 2.2 g | C(C1=CC=CC=C1)N1[C@@H](CN(CC1)S(=O)(=O)C)CC1=CC=CC=C1 | C19H24N2O2S
reactant | α-chloroethyl chloroformate | 7.04 mmol, 1.0 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | (3R)-3-benzyl-1-methanesulfonylpiperazine hydrochloride | 0.78 g | Cl.C(C1=CC=CC=C1)[C@@H]1CN(CCN1)S(=O)(=O)C | InChI=1S/C12H18N2O2S.ClH/c1-17(15,16)14-8-7-13-12(10-14)9-11-5-3-2-4-6-11;/h2-6,12-13H,7-10H2,1H3;1H/t12-;/m1./s1
